US05217973
51.7 g of 6-n-propyl-2-methyl-4-chloro-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine, prepared in Example 10, are dissolved in 150 ml of ethanol and 90 ml of hydrazine hydrate. The mixture is heated to reflux for 6 hours and the solvent is concentrated to one half under vacuum and then treated with water. The crystals formed are drained, washed with water and then with ether and dried to give 46 g of 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine in the form of crystals of melting point 156° C.

reactant | 6-n-propyl-2-methyl-4-chloro-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 51.7 g | C(CC)C1=C(C(=NC(=N1)C)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H20ClN3
reactant | hydrazine hydrate | 90 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6-n-propyl-2-methyl-4-hydrazino-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 46 g | C(CC)C1=C(C(=NC(=N1)C)NN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H23N5
